US06548493B1
(±)-cis-2-(3,4-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound (72.6 mg, 100%) was prepared by the method of Example 112 from tert-butyl (±)-cis-2-(3,4-dichlorophenyl)-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate (90 mg, 0.20 mmol) as pale yellow amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.58 (d, 1H, J=2.2 Hz), 7.41 (d, 1 H, J=8.4 Hz), 7.32 (dd, 1H, J=2.2, 8.4 Hz), 7.09 (s, 1H), 7.07 (s, 1H), 3.34-3.46 (m, 1H), 3.31 (dt, 1H, J=4.4, 10.7 Hz), 3.03-3.13 (m, 2H), 2.83-2.92 (m, 2H), 2.61-2.78 (m, 4H), 2.10-2.19 (m, 2H), 1.74-1.91 (m, 2H) ppm. MS (CI, NH3): 359 (base, M+H).

reactant | tert-butyl (±)-cis-2-(3,4-dichlorophenyl)-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate | 0.20 mmol, 90 mg | ClC=1C=C(C=CC1Cl)C=1C=C2CCCN3C2=C(C1)[C@@H]1[C@H]3CCN(C1)C(=O)OC(C)(C)C | C25H28Cl2N2O2
reactant | NH3 | N | H3N
product | (±)-cis-2-(3,4-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 72.6 mg, 100% | ClC=1C=C(C=CC1Cl)C=1C=C2CCCN3C2=C(C1)[C@@H]1[C@H]3CCNC1 | C20H20Cl2N2
